US05095113
In a 2 l flask equipped with a mechanical stirrer, a dry ice condenser, a thermometer and a gas inlet was charged 700 ml of toluene and 50 g of N-methylacetamide. It was cooled to 10° C. and then was charged 60 g of phosgene at 10°-20° C. Afterwards, 30 g of HCl gas was introduced. Then, 50 g of sodium dicyanamide was charged in one portion and the HCl charge continued until 56 g of total HCl was introduced. The reaction mass was heated to 65° C. for 2 hours. After cooling to 20° C., the reaction content consisted of toluene and some tars. The toluene phase was decanted into 500 ml of ice water. The residue was rinsed with 300 ml of toluene and then decanted. The combined toluenes were washed with water (2×500 ml) and dried over MgSO4. After evaporation, 32.5 g of 2,4-dichloro-6-methyl-1,3,5-triazine was obtained as white needles (35% yield).

reactant | N-methylacetamide | 50 g | CNC(C)=O | C3H7NO
reactant | phosgene | 60 g | C(=O)(Cl)Cl | CCl2O
reactant | HCl | 30 g | Cl | ClH
reactant | sodium dicyanamide | 50 g | [N-](C#N)C#N.[Na+]
reactant | HCl | 56 g | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-6-methyl-1,3,5-triazine | 32.5 g | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
